US06537948B1
A solution of 2.01 g of isoamyl nitrite in 1 ml of acetonitrile was added to a mixture of 2.0 g of N-[4-amino-2-fluoro-5-{2-(methoxycarbonyl)methoxy-3-pyridyl oxy}phenyl]acetamide, 1.13 g of copper(I) chloride, 2.31 g of copper(II) chloride and 20 ml of acetonitrile dropwise at room temperature, and the mixture was stirred for 1 hour. This reaction solution was poured into 2% hydrochloric acid, and extracted with ethyl acetate. The organic layer was washed with saturated saline, dried over anhydrous magnesium sulfate, and concentrated. The residue was subjected to silica gel column chromatography to obtain 1.04 g of N-[4-chloro-2-fluoro-5-{2-(methoxycarbonyl)methoxy-3-pyridyloxy}phenyl]acetamide.

reactant | isoamyl nitrite | 2.01 g | N(=O)OCCC(C)C | C5H11NO2
reactant | N-[4-amino-2-fluoro-5-{2-(methoxycarbonyl)methoxy-3-pyridyl oxy}phenyl]acetamide | 2.0 g | NC1=CC(=C(C=C1OC=1C(=NC=CC1)OCC(=O)OC)NC(C)=O)F | C16H16FN3O5
reactant | hydrochloric acid | Cl | ClH
solvent | acetonitrile | 1 ml | C(C)#N | C2H3N
catalyst | copper(I) chloride | 1.13 g | [Cu]Cl
catalyst | copper(II) chloride | 2.31 g | [Cu](Cl)Cl
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | N-[4-chloro-2-fluoro-5-{2-(methoxycarbonyl)methoxy-3-pyridyloxy}phenyl]acetamide | 1.04 g | ClC1=CC(=C(C=C1OC=1C(=NC=CC1)OCC(=O)OC)NC(C)=O)F | C16H14ClFN2O5
